US04703044
(B) 5,6-Dihydro-8-methoxy-2-[(6-phenylpyridin-2-yl)-methylthio]-4H-imidazo[4,5,1-ij]quinoline
2-Chloromethyl-6-phenylpyridine hydrochloride 1.942 g, 8.1 mmol) was added to a solution of 5,6-dihydro-8-methoxy-4H-imidazo[4,5,1-ij]quinoline-2[1H]-thione (1.78 g, 8.1 mmol) in ethanol (16 ml) and 1N-sodium hydroxide (16.2 ml). The mixture was heated under reflux for 15 seconds and cooled to room temperature. The ethanol was removed by evaporation in vacuo and the aqueous mixture extracted with dichloromethane (2×150 ml). The extracts were dried (MgSO4) and evaporated in vacuo to give a brown solid which was recrystallised from MeOH to give the title compound as the quarter hydrate (2.77 g, 88%), mp 134°-135° C. (Found: C, 70.5; H, 5.8; N, 10.4; C23H21N3OS1/4H2O requires C, 70.5; H, 5.5; N, 10.7%).

reactant | 2-Chloromethyl-6-phenylpyridine hydrochloride | 8.1 mmol, 1.942 g | Cl.ClCC1=NC(=CC=C1)C1=CC=CC=C1
reactant | 5,6-dihydro-8-methoxy-4H-imidazo[4,5,1-ij]quinoline-2[1H]-thione | 8.1 mmol, 1.78 g | COC=1C=C2CCCN3C2=C(C1)NC3=S | C11H12N2OS
reactant | sodium hydroxide | 16.2 ml | [OH-].[Na+]
solvent | ethanol | 16 ml | C(C)O | C2H6O
product | 5,6-Dihydro-8-methoxy-2-[(6-phenylpyridin-2-yl)-methylthio]-4H-imidazo[4,5,1-ij]quinoline | COC=1C=C2CCCN3C2=C(C1)N=C3SCC3=NC(=CC=C3)C3=CC=CC=C3 | C23H21N3OS
